US07371743B2
(a) 4-fluoro-3-methyl-benzoic acid chloride
14.00 g (90.8 mmol) 4-fluoro-3-methyl-benzoic acid are refluxed for 1 hour together with 50 ml of thionyl chloride and then evaporated down i. vac. The residue is further reacted without any more purification.

reactant | 4-fluoro-3-methyl-benzoic acid | 90.8 mmol, 14.00 g | FC1=C(C=C(C(=O)O)C=C1)C | C8H7FO2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-fluoro-3-methyl-benzoic acid chloride | FC1=C(C=C(C(=O)Cl)C=C1)C | C8H6ClFO
